US04236009
To a stirred solution of 200 ml. of 50 g. of phosphorous pentoxide in methanesulfonic acid was added portionwise over four minutes 59 g. of 1-methyl-4-hydroxy-4-(3-hydroxyphenyl)piperidine. The reaction was exothermic, the temperature rising to 70° C. After complete addition of the piperidine derivative, the reaction mixture was poured onto 200 g. of ice, and the resulting aqueous mixture made alkaline by the addition of ammonium hydroxide. The alkaline mixture was extracted several times with diethyl ether, and the ethereal extracts were combined, washed with water, dried, and the solvent removed by evaporation under reduced pressure to provide 44.7 g. of an oil. The oil was distilled to provide 1-methyl-4-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine; B.P.=123°-138° C. at 0.1 torr.

reactant | phosphorous pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 1-methyl-4-hydroxy-4-(3-hydroxyphenyl)piperidine | CN1CCC(CC1)(C1=CC(=CC=C1)O)O | C12H17NO2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | 1-methyl-4-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine | CN1CC=C(CC1)C1=CC(=CC=C1)OC | C13H17NO
